US09428508B2
To a solution of 1-(3-bromopropyl)-4-nitro-1H-indole (8.18 g, 28.9 mmol) in anhydrous N,N′-dimethylformamide (200 mL) was added grounded potassium carbonate (12 g, 87 mmol) in portions. Then a solution of morpholine (12.6 g, 144.8 mmol) in N,N′-dimethylformamide was added dropwise. The mixture was stirred at 80° C. for 12 hours, diluted with water and extracted with ethyl acetate. The organic phases were combined, washed by brine, dried over anhydrous sodium sulfate, filtrated and evaporated to afford the product 4-(3-(4-nitro-1H-indol-1-yl)propyl)morpholine, which was used for the next step without purification.

reactant | 1-(3-bromopropyl)-4-nitro-1H-indole | 28.9 mmol, 8.18 g | BrCCCN1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C11H11BrN2O2
reactant | potassium carbonate | 87 mmol, 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 144.8 mmol, 12.6 g | N1CCOCC1 | C4H9NO
solvent | N,N′-dimethylformamide | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3-(4-nitro-1H-indol-1-yl)propyl)morpholine | [N+](=O)([O-])C1=C2C=CN(C2=CC=C1)CCCN1CCOCC1 | C15H19N3O3
